US09340549B2
A microwave vial was charged with 5-bromo-2-fluoropyridine (commercially available from Acros, Pittsburgh, Pa.)(0.200 mL, 1.738 mmol), 2-(tributylstannyl)pyrimidine (commercially available from Frontier Scientific, Inc., Logan Utah) (0.718 mL, 2.173 mmol), lithium chloride (0.147 g, 3.48 mmol), copper (I) iodide (0.033 g, 0.174 mmol), and DMF (5.0 mL). Tetrakis(triphenylphosphine)palladium(0) (0.201 g, 0.174 mmol) was added, the system was purged with argon, and the tube was sealed. The resulting mixture was stirred at 120° C. in a microwave for 1 hour. The reaction mixture was then concentrated to afford a brown oil. The resulting oil was purified using column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-25% EtOAc-heptane) to afford 2-(6-fluoropyridin-3-yl)pyrimidine (0.150 g, 0.856 mmol, 49% yield) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.35 (dddd, J=8.51, 7.65, 2.91, 0.59 Hz, 1H), 7.54 (t, J=4.89 Hz, 1H), 8.28-8.43 (m, 1H), 8.78-8.89 (m, 1H), 8.96 (d, J=4.89 Hz, 2H). m/z (ESI) 176(M+H)+.

reactant | 5-bromo-2-fluoropyridine | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | 2-(tributylstannyl)pyrimidine | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | lithium chloride | 3.48 mmol, 0.147 g | [Cl-].[Li+]
catalyst | copper (I) iodide | 0.174 mmol, 0.033 g | [Cu]I
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.174 mmol, 0.201 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 2-(6-fluoropyridin-3-yl)pyrimidine | 0.856 mmol, 0.150 g, 49% yield | FC1=CC=C(C=N1)C1=NC=CC=N1 | C9H6FN3
